US04742057
To a suspension of 4-[4-(3-indolyl)piperidinomethyl]-2-(2-acetoxyacetylamino)thiazole (0.9 g) in ethanol (20 ml) was added 1N aqueous solution of sodium hydroxide (3 ml). After one hour of stirring, the reaction mixture was concentrated and the resulting precipitate was collected by filtration and recrystallized from a mixture of water and ethanol to give 4-[4-(3-indolyl)piperidinomethyl]-2-glycoloylaminothiazole (0.28 g).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-(2-acetoxyacetylamino)thiazole | 0.9 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(COC(C)=O)=O | C21H24N4O3S
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[4-(3-indolyl)piperidinomethyl]-2-glycoloylaminothiazole | 0.28 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(CO)=O | C19H22N4O2S
